US04115367
(d) 1,8-Bis(3-amino-4-hydroxyphenyl)perfluoro-3,6-dioxaoctane
A solution of 1,8-bis(3-nitro-4-hydroxyphenyl)perfluoro-3,6-dioxaoctane (6.10 g, 0.010 mole) in 185 ml of ethanol was deoxygenated by passing nitrogen through the boiling solution for 14 minutes. Concentrated hydrochloric acid (37 ml, 0.44 mole) and 10% Pd/C(0.75 g) were added to the cooled solution and the catalytic reduction was run overnight at room temperature and 50 psi of hydrogen. The catalyst was filtered off and the water white solution reduced to dryness under water aspirator pressure. The light tan residue (6.1 g) was slurried in a water-ether mixture. After careful neutralization with solid sodium bicarbonate, the product dissolved in the ether layer, which was washed several times with water, dried over magnesium sulfate and evaporated to dryness. The soluble portion of the filtrate was taken up in 6 liters of boiling heptane, the solution treated with charcoal and reduced in volume to 3 liters to give upon cooling 2.9 g (53% yield) of slightly off-white product, mp 150°-152° C.

reactant | 1,8-bis(3-nitro-4-hydroxyphenyl)perfluoro-3,6-dioxaoctane | 0.010 mole, 6.10 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(OC(C(OC(C(C1=CC(=C(C=C1)O)[N+](=O)[O-])(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C18H8F12N2O8
reactant | hydrochloric acid | 0.44 mole, 37 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 185 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.75 g | [Pd] | Pd
product | 1,8-Bis(3-amino-4-hydroxyphenyl)perfluoro-3,6-dioxaoctane | 53% yield | NC=1C=C(C=CC1O)C(C(OC(C(OC(C(C1=CC(=C(C=C1)O)N)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C18H12F12N2O4
